US05703082
26 ml of concentrated hydrochloric acid are added dropwise to a suspension of 25.2 g (0.065 mole) of dextrorotatory (+)-2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetamide (prepared at point 10 above) in 70 ml of water, causing the temperature of the mixture to rise to 38° C. The mixture is then heated at 50° C. for 17 hours. The reaction mixture is then cooled in an ice bath and the pH brought to a value of between 4 and 5 by addition of a 4N aqueous solution of sodium hydroxide. The resulting solution is extracted successively with 100 ml, then twice with 50 ml of dichloromethane. The organic phases are combined and dried over magnesium sulfate. They are filtered and the solvent is evaporated. The residual oil is dissolved in 243 ml of acetone and the solution is treated with 3.5 g of Norit and filtered through Celite, which is then washed with 35 ml of acetone. The solution is heated at reflux temperature and 198 ml (0.13 mole) of concentrated hydrochloric acid are added dropwise thereto. The mixture is cooled in an ice bath and allowed to stand for one hour. The precipitate which forms is filtered off, washed with 100 ml of acetone and dried under vacuum at 50° C. 24.1 g of the levorotatory dihydroshloride of 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetic acid are obtained.

reactant | hydrochloric acid | 26 ml | Cl | ClH
reactant | (+)-2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetamide | 0.065 mole, 25.2 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)N)C1=CC=CC=C1 | C21H26ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 0.13 mole, 198 ml | Cl | ClH
solvent | water | 70 ml | O | H2O
product | 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetic acid | Yield: 80.3% | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)O)C1=CC=CC=C1 | C21H25ClN2O3
